US04170649
B. Preparation of 7-chloro-1-methyl-2-carbamoylmethylene-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine
5.4 g of 7-chloro-1-methyl-2-cyanomethylene-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine are introduced portion-wise into 26 ml of concentrated sulfuric acid and are dissolved therein while the mixture is slowly heated-up to a temperature of 50° C. The solution is kept at a temperature of 50° C. for 1 more hour. For working-up after cooling the solution is poured onto ice, the sulfuric acid is neutralized with diluted sodiumhydroxide solution and the raw product is extracted with methylenechloride. The organic phase is separated, washed with water to neutral reaction and dried over sodium sulfate. After filtration and evaporation of the solvent under vacuum, a residue is obtained and is crystallized by trituration with ether. After re-crystallization from ethanol, 7-chloro-1-methyl-2-carbamoylmethylene-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine, having a melting point of 212° to 217° C., is obtained.

reactant | 7-chloro-1-methyl-2-cyanomethylene-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine | 5.4 g | ClC=1C=CC2=C(C(=NCC(N2C)=CC#N)C2=C(C=CC=C2)Cl)C1 | C18H13Cl2N3
reactant | sulfuric acid | 26 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodiumhydroxide | [OH-].[Na+]
product | 7-chloro-1-methyl-2-carbamoylmethylene-5-(2'-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(N2C)=CC(N)=O)C2=C(C=CC=C2)Cl)C1 | C18H15Cl2N3O
